US06495699B2
According to the procedures described in Example 1(a), 3(R)-[3-(4′-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-(1(S)-hydroxy-methyl-2,2-dimethyl-propyl)succinamic acid benzyl ester in MeOH and EtOAc was hydrogenolyzed to afford in 88% yield 3(R)-[3-(4′-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-(1(S)-hydroxymethyl-2,2-dimethyl-propyl)succinamic acid as a white powder, mp 192-4° C. 1H NMR (CD3OD): δ 7.95 (d, 2H, J=8.4 Hz), 7.72 (d, 2H, J=8.1 Hz), 7.60 (s, 4H), 7.32 (d, 1H, J=1.6 Hz), 6.92 (t, 1H, J=2.5 Hz), 6.51 (s, 1H), 5.20 (t, 1H, J=7.5 Hz), 3.85-3.75 (m, 2H), 3.02 (dd, 1H, J=7.2, 17.0 Hz), 0.92 (s, 9H). IR (KBr): 3360, 2961, 1710, 1658, 1404, 1201, 770 cm1; HRFABMS: Calculated for C27H32N3O5 (M+H)+: 478.2342. Found: 478.2360. Anal. Calculated for C27H32N3O5 (M+H)+. 478.2342. Found: 478.2360. Anal Calculated for C27H31N3O5.0.25CH2Cl2: C, 65.62; H, 6.37; N, 8.42. Found: C, 65.86, H, 6.69; N, 8.30.

reactant | 3(R)-[3-(4′-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-(1(S)-hydroxy-methyl-2,2-dimethyl-propyl)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@](C(C)(C)C)(O)C)N1C=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C(N)=O)=O | C34H37N3O5
reactant | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3(R)-[3-(4′-carbamoylbiphenyl-4-yl)-1H-pyrrol-1-yl]-N-(1(S)-hydroxymethyl-2,2-dimethyl-propyl)succinamic acid | 88% yield | C(N)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CN(C=C1)[C@H](CC(=O)O)C(=O)N[C@@H](C(C)(C)C)CO | C27H31N3O5
